US07071199B1
b) 1-cyclopentyl-2-oxoethylcyanide
A mixture of 2-cyclopentylacetonitrile (0.50 g, 4.59 mmol) in tetrahydrofuran (10 mL) was cooled to −60° C. then treated with 1.7 M tert-buytllithium in pentane (3.25 mL, 5.50 mmol) while maintaining the reaction temperature at less than −55° C. The solution was stirred for 10 minutes then ethyl formate (0.41 g, 5.50 mmol) was added dropwise. The mixture was warmed to ambient temperature and stirred an additional 16 hours. The mixture was concentrated under reduced pressure and the resulting residue applied to a silica gel column and eluted with dichloromethane/ethyl acetate (95:5). The fractions containing material with an Rf of 0.1–0.3 [TLC, dichloromethane/ethyl acetate (95:5), potassium permanganate stain) were combined and concentrated to give an oil which was used without further purification: 1H NMR (Chloroform-d, 400 MHz) δ 9.57 (s, 1H), 3.54 (d, 1H), 2.45 (m, 1H), 1.4–1.9 (m, 8H).

reactant | 2-cyclopentylacetonitrile | 4.59 mmol, 0.50 g | C1(CCCC1)CC#N | C7H11N
reactant | pentane | 5.50 mmol, 3.25 mL | CCCCC | C5H12
reactant | ethyl formate | 5.50 mmol, 0.41 g | C(=O)OCC | C3H6O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-cyclopentyl-2-oxoethylcyanide | C1(CCCC1)C(C=O)C#N | C8H11NO
